US07259266B2
Step 1. Preparation of ethyl 7-[isobutyl(methyl)amino]-6-methyl-2-(trifluoromethyl)-2H-chromene-3-carboxylate
A mixture of ethyl 6-chloro-7-[isobutyl(methyl)amino]-2-(trifluoromethyl)-2H-chromene-3-carboxylate prepared as in Example 8c (0.50 g, 1.28 mmole), trimethylboroxine (0.38 g, 2.75 mmole), [(tBu3P)PdBr]2 (0.01 g), and Cs2CO3 (0.75 g, 2.31 mmole) in anhydrous diglyme (10.0 mL) was heated to 115° C. under a dry N2 atmosphere for 18 hrs. The contents were poured into water (40 ml) and extracted with EtOAc (2×40 mL). The combined extracts were washed with brine (20 mL), dried over MgSO4, filtered and concentrated in vacuo to give a yellow oil which was subject to HPLC (reverse phase) and eluted with 50-85% ACN/water with 0.05% TFA to give yellow solid (0.21 g, 45%). No further purification was performed. GCMS m/z 371.0 (M+). LCMS m/z 372.0 (M+H).

reactant | ethyl 6-chloro-7-[isobutyl(methyl)amino]-2-(trifluoromethyl)-2H-chromene-3-carboxylate | ClC=1C=C2C=C(C(OC2=CC1N(C)CC(C)C)C(F)(F)F)C(=O)OCC | C18H21ClF3NO3
reactant | trimethylboroxine | 2.75 mmole, 0.38 g | CB1OB(OB(O1)C)C | C3H9B3O3
reactant | Cs2CO3 | 2.31 mmole, 0.75 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | water | 40 ml | O | H2O
solvent | diglyme | 10.0 mL | COCCOCCOC | C6H14O3
product | ethyl 7-[isobutyl(methyl)amino]-6-methyl-2-(trifluoromethyl)-2H-chromene-3-carboxylate | 0.21 g, 45% | C(C(C)C)N(C1=C(C=C2C=C(C(OC2=C1)C(F)(F)F)C(=O)OCC)C)C | C19H24F3NO3
